US04920129
To a solution of 8-(2-methyl-6-aminobenzylamino)-3-(2-propynyl)-2-methlimidazo[1,2-a]pyridine (0.26 g) in chloroform (7.8 ml) was added dropwise propionyl chloride (0.074 ml) at 1°-5° C. and the mixture was stirred for 5 hours at room temperature. The solvent was removed under reduced pressure and the residue was dispersed into a mixture of an aqueous solution of sodium bicarbonate and chloroform. The chloroform layer was separated and washed with water and dried over magnesium sulfate. Following filtration, the solvent was removed under reduced pressure and the residue was triturated with diethyl ether and collected by filitration to give 8-(2-methyl-6-propionylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (0.25 g).

reactant | 8-(2-methyl-6-aminobenzylamino)-3-(2-propynyl)-2-methlimidazo[1,2-a]pyridine | 0.26 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)N | C19H20N4
reactant | propionyl chloride | 0.074 ml | C(CC)(=O)Cl | C3H5ClO
solvent | chloroform | 7.8 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-(2-methyl-6-propionylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 0.25 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(CC)=O | C22H24N4O
